US08278343B2
Preparation 29: 3-(4′-Cyano-biphenyl-4-yloxymethyl)-1-(4-fluoro-benzoyl)-pyrrolidine-3-carboxylic acid ethyl ester (±)
4′-Hydroxy-4-biphenyl carbonitrile (329 mg, 1.68 mmol) and potassium carbonate (317 mg, 2.30 mmol) were added to a stirred solution of 1-(4-fluoro-benzoyl)-3-iodomethyl-pyrrolidine-3-carboxylic acid ethyl ester (620 mg, 1.53 mmol) (see Preparation 12) in dimethylformamide (7 mL). The reaction mixture was heated at 80° C. for 18 hours then partitioned between ethyl acetate (100 mL) and water (100 mL). The organic layer was washed with water (2000 mL), dried over magnesium sulfate then concentrated under reduced pressure. The residue was purified by column chromatography on silica gel, eluting with 3:1→1:1 heptane:EtOAc to afford the title compound as a white solid (517 mg, 71%).

reactant | 4′-Hydroxy-4-biphenyl carbonitrile | 1.68 mmol, 329 mg | OC1=CC=C(C=C1)C1=CC=C(C=C1)C#N | C13H9NO
reactant | potassium carbonate | 2.30 mmol, 317 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1-(4-fluoro-benzoyl)-3-iodomethyl-pyrrolidine-3-carboxylic acid ethyl ester | 1.53 mmol, 620 mg | C(C)OC(=O)C1(CN(CC1)C(C1=CC=C(C=C1)F)=O)CI | C15H17FINO3
solvent | dimethylformamide | 7 mL | CN(C=O)C | C3H7NO
product | 3-(4′-Cyano-biphenyl-4-yloxymethyl)-1-(4-fluoro-benzoyl)-pyrrolidine-3-carboxylic acid ethyl ester | 517 mg, 71% | C(C)OC(=O)C1(CN(CC1)C(C1=CC=C(C=C1)F)=O)COC1=CC=C(C=C1)C1=CC=C(C=C1)C#N | C28H25FN2O4
